US04339450
E-4-[2-Hydroxy-3-(4-methylpiperazin-1-yl)-propoxy]imino-4,5,6,7-tetrahydrobenzo[b]thiophene (I)
This compound is prepared by the procedure described in Example 1 by condensing E-4-(2,3-epoxypropoxy)imino-4,5,6,7-tetrahydrobenzo[b]thiophene with 1-methylpiperazine. Dioxalate: white crystals; m.p. 198° C. (recrystallised from methanol/water); yield: 66% of theory.

reactant | E-4-(2,3-epoxypropoxy)imino-4,5,6,7-tetrahydrobenzo[b]thiophene | O1C(CO\N=C\2/CCCC=3SC=CC32)C1 | C11H13NO2S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | E-4-[2-Hydroxy-3-(4-methylpiperazin-1-yl)-propoxy]imino-4,5,6,7-tetrahydrobenzo[b]thiophene | yield: 66% | OC(CO\N=C\1/CCCC=2SC=CC21)CN2CCN(CC2)C | C16H25N3O2S
